US08058299B2
3-(N-Boc-piperidine-4-yl)-propionic acid methyl ester (2.0 g, 7.38 mmol) from above was dissolved in tetrahydrofuran (50 mL). The solution was cooled to −78° C. and sodium bis(trimethylsilyl)amide (1.0 M, 9.0 mL) was added. The mixture was stirred at −78° C. for 1 hr and methyl iodide (1.2 mL, 19.5 mmol) was added. The mixture was warmed to room temperature and stirred for 2 hrs. The mixture was extracted with ether and washed with dilute hydrochloric acid. The organic layer was dried, filtered and concentrated. The residue was purified using flash chromatography (eluting with ethyl acetate and hexanes) to give 2-methyl-3-(N-Boc-piperidine-4-yl)-propionic acid methyl ester as an oil (789 mg).

reactant | 3-(N-Boc-piperidine-4-yl)-propionic acid methyl ester | 7.38 mmol, 2.0 g | COC(CCC1CCN(CC1)C(=O)OC(C)(C)C)=O | C14H25NO4
reactant | sodium bis(trimethylsilyl)amide | 1.0 M, 9.0 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | methyl iodide | 19.5 mmol, 1.2 mL | CI | CH3I
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 2-methyl-3-(N-Boc-piperidine-4-yl)-propionic acid methyl ester | 789 mg | COC(C(CC1CCN(CC1)C(=O)OC(C)(C)C)C)=O | C15H27NO4
